US06518260B1
12.1. Phenylmethyl N-[2-[[[2-phenyl-1-[[(tert-butoxy)carbonyl]amino]ethyl]phenylmethoxyphosphinyl]methyl]-1-oxo-3-phenylpropyl]-L-phenylalaninate
Phenylmethyl N-[2-[[hydroxy[2-phenyl-1-[[(tert-butoxy)carbonyl]amino]ethyl]phosphinyl]methyl]-1-oxo-3-phenylpropyl]-L-phenylalaninate is treated with benzyl alcohol (1.1 eq.) in the presence of dicyclohexylcarbodiimide and dimethylaminopyridine in tetrahydrofuran. After stirring overnight at room temperature, the mixture is filtered and then evaporated to dryness. The residue is taken up in ethyl acetate. This solution is washed 3 times with water, dried over sodium sulphate and then evaporated to dryness. The product is purified by chromatography on silica gel, eluting with a 1/9 dichloromethane/methanol mixture. The product is recovered in a yield of 60%.

reactant | Phenylmethyl N-[2-[[hydroxy[2-phenyl-1-[[(tert-butoxy)carbonyl]amino]ethyl]phosphinyl]methyl]-1-oxo-3-phenylpropyl]-L-phenylalaninate | OP(=O)(C(CC1=CC=CC=C1)NC(=O)OC(C)(C)C)CC(C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C39H45N2O7P
reactant | benzyl alcohol | 1.1 eq. | C(C1=CC=CC=C1)O | C7H8O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Phenylmethyl N-[2-[[[2-phenyl-1-[[(tert-butoxy)carbonyl]amino]ethyl]phenylmethoxyphosphinyl]methyl]-1-oxo-3-phenylpropyl]-L-phenylalaninate | yield of 60% | C1(=CC=CC=C1)CC(NC(=O)OC(C)(C)C)P(=O)(OCC1=CC=CC=C1)CC(C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C46H51N2O7P
